US04775674
1,3-Dihydro-7-[[3-(1-methylethyl)-2-oxo-5-oxazolidinyl]methoxy]-2H-imidazo[4,5-b]quinolin-2-one
A solution of 5-[[5-[[[3-(1-methylethyl)-2-oxooxazolidin-5-yl]methyl]oxy]-2-nitrophenyl]methylene]-2,4-imidazolidinedione (8.80 g, 22 mmol) in dimethylformamide (150 mL) was hydrogenated at 60 p.s.i. over 10% palladium on charcoal (0.88 g) in a low pressure hydrogenation apparatus. After 21 hours, the mixture was filtered through kieselguhr and the solvent evaporated in vacuo at about 40° C. to leave a foamy solid. Methanol (180 mL) was added, the mixture heated to reflux and iodine (5.72 g 22 mmol) added portionwise over 15 minutes. After refluxing for a further 15 minutes, the mixture was concentrated to about 50 mL and diluted with 10% sodium sulfate solution and 10% sodium carbonate solution. A grey solid was filtered off, washed with water and air dried to give (4.18 g, 54%) of product. Three further crops amounting to (3.41 g, 46%) were subsequently collected. An analytical sample was purified by dissolving 2 g in 10% hydrochloric acid in methanol. Addition of diethyl ether afforded 1,3-dihydro-7-[[3-(1-methylethyl)-2-oxo-5-oxazolidinyl]methoxy]-2H-imidazo[4,5-b]quinolin-2-one hydrochloride (1.1 g, 50%) m.p. 264°-266° C.

reactant | 5-[[5-[[[3-(1-methylethyl)-2-oxooxazolidin-5-yl]methyl]oxy]-2-nitrophenyl]methylene]-2,4-imidazolidinedione | 22 mmol, 8.80 g | CC(C)N1C(OC(C1)COC=1C=CC(=C(C1)C=C1C(NC(N1)=O)=O)[N+](=O)[O-])=O | C17H18N4O7
reactant | Methanol | 180 mL | CO | CH4O
reactant | iodine | 22 mmol, 5.72 g | II | I2
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 0.88 g | [Pd] | Pd
product | 1,3-Dihydro-7-[[3-(1-methylethyl)-2-oxo-5-oxazolidinyl]methoxy]-2H-imidazo[4,5-b]quinolin-2-one | 4.18 g, 54% | CC(C)N1C(OC(C1)COC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O)=O | C17H18N4O4
